US07615642B2
Step I. 1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-1H-pyrazole-4-carbaldehyde
2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (0.8 g, 1.9 mmol) was added to a solution of 1H-pyrazole-4-carbaldehyde (0.6 g, 6.2 mmol) and DMAP (1.5 g, 12 mmol) in DCE (70 mL) at 0° C. The reaction mixture was allowed to warm to ambient temperature and stirred for 3 h. The solvent was concentrated and the product was purified by flash chromatography on silica gel using DCM/EtOAc (1:1) as eluent to provide the title compound as white solid. Yield: 0.34 g (36%); MS (ESI) (M+H)+=465.0.

reactant | 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 1.9 mmol, 0.8 g | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)Cl | C18H23ClF2N2O2S
reactant | 1H-pyrazole-4-carbaldehyde | 6.2 mmol, 0.6 g | N1N=CC(=C1)C=O | C4H4N2O
catalyst | DMAP | 12 mmol, 1.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCE | 70 mL | ClCCCl | C2H4Cl2
product | 1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-1H-pyrazole-4-carbaldehyde | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C=O | C22H26F2N4O3S
